US07446118B2
A mixture of 6-methyl-pyridine-2-carbaldeyde (3.0 g, 24.8 mmol) and carbethoxymethylene triphenylphosphorane (9.5 g, 27.2 mmol) in toluene (20 ml) was stirred at room temperature overnight. The precipitate was filtered and washed with toluene. The filtrate was concentrated, and the residue was purified via flash chromatography (DCM/MeOH) affording 3-(6-Methyl-pyridin-2-yl)-acrylic acid ethyl ester CCLII in 63% yield (2.95 g).

reactant | 6-methyl-pyridine-2-carbaldeyde | 24.8 mmol, 3.0 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | carbethoxymethylene triphenylphosphorane | 27.2 mmol, 9.5 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(6-Methyl-pyridin-2-yl)-acrylic acid ethyl ester | 63% yield | C(C)OC(C=CC1=NC(=CC=C1)C)=O | C11H13NO2
